US09102617B2
1-Bromo-2,3-dimethoxy-5-nitronaphthalene (1 g), 4-t-butylphenylboronic acid (685 mg, 1.2 eq.), Pd(PPh3)4 (370 mg, 0.1 eq.), and Na2CO3 (680 mg, 2 eq.) were combined in a flask with 20 mL dioxane and 5 mL H2O and degassed. Reaction mixture was then refluxed at 100° C. overnight. Solution was cooled to room temperature then diluted with EtOAc and washed with saturated NaHCO3. The organic layer was dried over sodium sulfate and concentrated. Chromatography achieved using ISCO max gradient 20% EtOAc/hexane yielding product as a yellow solid (1.159 g, 99% yield). 1H NMR (400 MHz) (CDCl3) δ 8.18 (dd, J=8 Hz, J=4 Hz, 1H), 8.08 (s, 1H), 7.79-7.77 (m, 1H), 7.54 (dt, J=8 Hz, J=4 Hz, 2H), 7.30 (t, J=4 Hz, 1H), 7.28-7.27 (m, 2H), 3.99 (s, 3H), 3.58 (s, 3H), 1.34 (s, 9H). 13C NMR (100 MHz) (CDCl3) δ 155.05, 150.69, 147.53, 145.44, 132.89, 132.72, 131.97, 130.66, 130.06, 125.26, 123.59, 123.54 121.87, 102.16, 61.08, 55.91, 34.71, 31.43.

reactant | 1-Bromo-2,3-dimethoxy-5-nitronaphthalene | 1 g | BrC1=C(C(=CC2=C(C=CC=C12)[N+](=O)[O-])OC)OC | C12H10BrNO4
reactant | 4-t-butylphenylboronic acid | 685 mg, 1.2 eq. | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | Na2CO3 | 680 mg, 2 eq. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 370 mg, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 5 mL | O | H2O
product | EtOAc hexane | 1.159 g, 99% yield | CCOC(=O)C.CCCCCC | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
